US07001897B2
To a solution of 3-benzoyloxy-1-(4-methoxycarbonyl-1,3-oxazolin-2-yl)azetidine (9.12 g, 30.0 mmol) (obtained as described in Reference Example 70(5)) in a mixture of toluene (450 ml) and methylene chloride (180 ml) was added manganese dioxide (63.8 g) and the mixture was heated under reflux for 5 hours. After checking the completion of the reaction, the mixture was filtered and the filtrate concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using toluene:acetonitrile=1:1 as the eluant to afford 3-benzoyloxy-1-(4-methoxycarbonyl-1,3-oxazol-2-yl)azetidine (5.24 g, yield 58%) as pale yellow crystals.

reactant | 3-benzoyloxy-1-(4-methoxycarbonyl-1,3-oxazolin-2-yl)azetidine | 30.0 mmol, 9.12 g | C(C1=CC=CC=C1)(=O)OC1CN(C1)C=1OCC(N1)C(=O)OC | C15H16N2O5
reactant | acetonitrile | C(C)#N | C2H3N
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 63.8 g | [O-2].[O-2].[Mn+4]
product | 3-benzoyloxy-1-(4-methoxycarbonyl-1,3-oxazol-2-yl)azetidine | 5.24 g, yield 58% | C(C1=CC=CC=C1)(=O)OC1CN(C1)C=1OC=C(N1)C(=O)OC | C15H14N2O5
